US04994493
2-(2-Furylmethylamino)-5-nitrobenzoic acid
A solution of 14.7 g of 2-fluoro-5-nitrobenzoic acid and 23.1 g of 2-furylmethylamine in 250 ml of ethanol is boiled under a reflux condenser for 6 hours. After the solvent has been removed by distillation under reduced pressure, the residue is dissolved in 150 ml of water, the pH is adjusted to approximately 2 with 2 N HCl, and the precipitate is filtered off. After the precipitate has been washed several times with water, it is dried in a stream of air. Pale yellow crystals, melting point 190°-192° C. (from isopropanol).

reactant | 2-fluoro-5-nitrobenzoic acid | 14.7 g | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | 2-furylmethylamine | 23.1 g | O1C(=CC=C1)CN | C5H7NO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-(2-Furylmethylamino)-5-nitrobenzoic acid | O1C(=CC=C1)CNC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C12H10N2O5
